US04751298
hydrogenating the cyanomethyl-(2-cyano-ethyl)-(3-hydroxy-propyl)-amine in the presence of a hydrogenation catalyst and ammonia to form 1-(3-hydroxy-propyl)-1,4-diazepane;

reactant | cyanomethyl-(2-cyano-ethyl)-(3-hydroxy-propyl)-amine | C(#N)CN(CCCO)CCC#N | C8H13N3O
reactant | ammonia | N | H3N
product | 1-(3-hydroxy-propyl)-1,4-diazepane | OCCCN1CCNCCC1 | C8H18N2O
